data/mechanism_extracts/GreenChem/10.1039_D5GC02920A_sup_1.json
{"doi": "10.1039_D5GC02920A_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical imino-trifluoromethylation of styrenes with CF3SO2Na and benzophenone imine to give beta-CF3 alpha-imino products", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF3SO2- (Langlois reagent) generates CF3 radical via SO2 extrusion; CF3 radical adds to styrene to give a benzylic radical that is further oxidized to a benzylic cation, which is trapped by benzophenone imine", "key_intermediates": [{"name": "CF3 radical", "smiles": "[CH](F)(F)F", "role": "reactive"}, {"name": "benzylic radical (after CF3 addition to 4-methoxystyrene)", "smiles": null, "role": "transient"}, {"name": "benzylic cation (p-methoxybenzyl-CH2CF3 cation)", "smiles": null, "role": "reactive"}, {"name": "imino-trifluoromethylated adduct 5a", "smiles": "COc1ccc(C(CC(F)(F)F)N=C(c2ccccc2)c2ccccc2)cc1", "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3SO2 radical which loses SO2 to give CF3 radical; CF3 radical adds to the styrene terminal carbon producing a benzylic radical, which is further oxidized at the anode to a benzylic cation; benzophenone imine traps the cation, with TBD/HFIP assisting deprotonation to yield the N-diphenylmethylene amine product 5a.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 5a was not detected, indicating involvement of radical intermediates"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Product 5a was not detected, supporting a radical pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT"], "evidence_strength": "medium", "notes": "Derivatization of 5a with PPTS in THF/H2O hydrolyzed the diphenylmethylene imine to give the primary amine 6 (3,3,3-trifluoro-1-(4-methoxyphenyl)propan-1-aminium tosylate, 82%), confirming the imine connectivity. Only TEMPO/BHT trapping data are shown on these pages; no CV, KIE, or DFT evidence reported here."}
